US07652143B2
Ethyl 3-methyl-2-{2-oxo-3-(4-(pyridin-4-ylmethoxy)benzyl)imidazolidin-1-yl}-butyrate (45 mg; 0.11 mmol) was dissolved in methanol (1.5 ml) and cooled to 0° C. NaOH (1N, 5 ml) was added, and the mixture was allowed to warm to RT over the course of 3 h. The methanol was then removed under reduced pressure, and water (1.5 ml) and saturated NaH2PO4 solution (3 ml) were added to the residue. The solid was filtered off with suction and washed with water. Drying under reduced pressure at 60° C. resulted in 3-methyl-2-{2-oxo-3-(4-(pyridin-4-ylmethoxy)benzyl)imidazolidin-1-yl}-butyric acid (36 mg; 0.09 mmol). MS: 384.45 (M+H); Rt: 0.87 min (method: gradient 0 min 96% H2O (0.05% TFA) 2.0 min 95% acetonitrile, 95% acetonitrile to 2.4 min, 4% acetonitrile 2.45 min; flow rate 1 ml/min; column 0.4 μL (YMC J'sphere ODS H80 20X2 1.4μ); 30° C.)

reactant | Ethyl 3-methyl-2-{2-oxo-3-(4-(pyridin-4-ylmethoxy)benzyl)imidazolidin-1-yl}-butyrate | 0.11 mmol, 45 mg | CC(C(C(=O)OCC)N1C(N(CC1)CC1=CC=C(C=C1)OCC1=CC=NC=C1)=O)C | C23H29N3O4
reactant | NaOH | 1N, 5 ml | [OH-].[Na+]
solvent | methanol | 1.5 ml | CO | CH4O
product | 3-methyl-2-{2-oxo-3-(4-(pyridin-4-ylmethoxy)benzyl)imidazolidin-1-yl}-butyric acid | 0.09 mmol, 36 mg | CC(C(C(=O)O)N1C(N(CC1)CC1=CC=C(C=C1)OCC1=CC=NC=C1)=O)C | C21H25N3O4
